US07399759B2
2-[6-(Dimethylamino)-2-pyrazinyl]-4H-1,3-benzothiazine-4-one
2-Cyano-6-dimethylaminopyrazine (0.50 g, 3.37 mmol) and methyl thiosalicylate (1.14 g, 6.75 mmol) was dissolved in toluene (100 ml), and triethylamine (1.42 ml, 10.1 mmol) was added thereto. The mixture was refluxed for 18 hrs. The solvent was evaporated, and the residue was recrystallized from ethanol to give the titled compound (0.31 g, 32%) as pale yellow crystals.

reactant | 2-Cyano-6-dimethylaminopyrazine | 3.37 mmol, 0.50 g | C(#N)C1=NC(=CN=C1)N(C)C | C7H8N4
reactant | methyl thiosalicylate | 6.75 mmol, 1.14 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 10.1 mmol, 1.42 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[6-(Dimethylamino)-2-pyrazinyl]-4H-1,3-benzothiazine-4-one | 0.31 g, 32% | CN(C1=CN=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2)C | C14H12N4OS
